US05698691
(2) 2-(2-Nitro-5-chlorophenyl)-2-(2-chlorophenyl)ethanol
A mixture solution of α-(5-chloro-2-nitrophenyl)-2-chlorophenyl acetic acid methyl ester (26.3 g) and lithium borohydride (2 g) in tetrahydrofuran (200 ml) was stirred for 4 hours at room temperature. This mixture solution was added to a 20% aqueous solution of acetic acid (50 ml), which was extracted with acetic acid ethyl ester. The extract solution was washed with water, dried over anhydrous sodium sulfate and, then, the solvent was distilled off. The residual oily compound was purified by means of a silica-gel column chromatography to give 11.0 g of an oily compound.

reactant | α-(5-chloro-2-nitrophenyl)-2-chlorophenyl acetic acid methyl ester | 26.3 g | COC(C(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])C1=C(C=CC=C1)Cl)=O | C15H11Cl2NO4
reactant | lithium borohydride | 2 g | [BH4-].[Li+]
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(2-Nitro-5-chlorophenyl)-2-(2-chlorophenyl)ethanol | 11.0 g | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)C(CO)C1=C(C=CC=C1)Cl | C14H11Cl2NO3
